US05641430
Preparation of trans-4-(4-chloro-3-fluorophenyloxymethyl)-1-n-heptyl-1-silacyclohexane
The general procedure of Example 1 was repeated using n-heptyl bromide and 4-(4-chloro-3-fluorophenyloxymethyl)-1-chloro-1-silacyclohexane, thereby obtaining the intended product.

reactant | n-heptyl bromide | C(CCCCCC)Br | C7H15Br
reactant | 4-(4-chloro-3-fluorophenyloxymethyl)-1-chloro-1-silacyclohexane | ClC1=C(C=C(C=C1)OCC1CC[SiH](CC1)Cl)F | C12H15Cl2FOSi
product | trans-4-(4-chloro-3-fluorophenyloxymethyl)-1-n-heptyl-1-silacyclohexane | ClC1=C(C=C(C=C1)OC[C@@H]1CC[Si@H](CC1)CCCCCCC)F | C19H30ClFOSi
